US08053431B2
1-(2-Methanesulfonylmethoxyethyl)-1-H-benzimidazole-5-carboxylic acid methyl ester (1.0 g, 3.2 mmoles) was dissolved in THF (5 mL). A solution of LiOH (0.38 g, 16 mmol) in water was added and the mixture stirred vigorously for 1 h. The reaction was acidified with 2N HCl to pH 2 at 5-10° C. It was then filtered to give 0.8 g (84%) of 1-(2-methanesulfonylmethoxyethyl)-1H-benzoimidazole-5-carboxylic acid. 1H NMR (300 MHz, DMSO-d6) δ 2.9 (s, 3H), 4.2 (t, 2H), 4.5 (t, 2H), 4.65 (s, 2H), 7.75 (d, 1H), 7.9 (dd, 1H), 8.25 (d, 1H), 8.35 (s, 1H), 12.7 (s, 1H)

reactant | 1-(2-Methanesulfonylmethoxyethyl)-1-H-benzimidazole-5-carboxylic acid methyl ester | 3.2 mmoles, 1.0 g | COC(=O)C1=CC2=C(N(C=N2)CCOCS(=O)(=O)C)C=C1 | C13H16N2O5S
reactant | LiOH | 16 mmol, 0.38 g | [Li+].[OH-]
reactant | HCl | 2N | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-(2-methanesulfonylmethoxyethyl)-1H-benzoimidazole-5-carboxylic acid | 0.8 g, 84% | CS(=O)(=O)COCCN1C=NC2=C1C=CC(=C2)C(=O)O | C12H14N2O5S
